US08203003B2
(2S,4S)—N-Fmoc-4-fluoropyrrolidine-2-carboxamide (Fa) (354 mg, 1 mmol) was dissolved in 12 ml of a 1:1 mixture of diethylamine and dichloromethane at room temperature. After the mixture was stirred for 1.5 h, all the volatiles are removed. To the obtained residue was added ethyl acetate (10 ml) and water (5 mL), and the mixture was stirred and left. The aqueous layer was separated, washed with 10 ml of ethyl acetate, and evaporated to dryness by a vacuum pump. The residue was dissolved in 2 ml of isopropanol and mixed with ether. The precipitated solid was washed with ethyl acetate and dried in vacuo, giving 118 mg (yield 90%) of (2S,4S)-4-fluoropyrrolidine-2-carboxamide as crystals: 19F-NMR (D2O) δ −172.40 (m, 1 F): 1H-NMR (D2O) δ 2.0-2.5 (m, 2H), 2.95 (dd, 1H, J=38.8, 3.42 Hz), 3.20 (dd, 1H, J=21.6, 1.7 Hz), 3.0 (dd, 1H, J=10.3, 4.1 Hz), 5.16 (dt, 1H, J=53.2, 4.1 Hz): 13C-NMR (D2O) δ 37.52 (d, J=21.7 Hz), 52.68 (d, J=23.1 Hz), 58.49, 94.63 (d, J=171.2 Hz, 4-C), 177.71 (CO).

reactant | (2S,4S)—N-Fmoc-4-fluoropyrrolidine-2-carboxamide | 1 mmol, 354 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC(=O)[C@H]1NC[C@H](C1)F | C20H19FN2O3
solvent | diethylamine | C(C)NCC | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,4S)-4-fluoropyrrolidine-2-carboxamide | 118 mg, yield 90% | F[C@H]1C[C@H](NC1)C(=O)N | C5H9FN2O
